US06809110B2
In analogy to the procedure described in example 10 d], [rac]-2-(2-methyl-4-{1-methyl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-benzyl)-butyric acid ethyl ester was treated with 3 N NaOH to obtain [rac]-2-(2-methyl-4-{1-methyl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-benzyl)-butyric acid as colorless liquid.

reactant | [rac]-2-(2-methyl-4-{1-methyl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-benzyl)-butyric acid ethyl ester | C(C)OC(C(CC)CC1=C(C=C(C=C1)OC(C)(C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C28H32F3NO3S
reactant | NaOH | 3 N | [OH-].[Na+]
product | [rac]-2-(2-methyl-4-{1-methyl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-benzyl)-butyric acid | CC1=C(CC(C(=O)O)CC)C=CC(=C1)OC(C)(C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C | C26H28F3NO3S
